US20010044536A1
To 2,3,5,6-tetrafluoro-4-[(2,2-dimethyldioxolan-4-yl)methoxy]pyridine (3.2 g, 11 mmol) in CH3CN (20 mL) was added CS2CO3 (3.8 g, 12 mmol) and 3-hydroxy-4-(benzyloxy)benzonitrile (2.5 g, 11 mmol). After stirring for 24 hours the reaction was partitioned with water and ethyl acetate. The layers were separated, washed with water and brine, dried (Na2SO4), and the solvent was removed in vacuo. The residue was triturated with hexane/ethyl acetate (1/1) and the resulting solid was collected by filtration to give 3-[[3,5,6-trifluoro-4-[(2,2-dimethyldioxolan-4-yl)methoxy]pyridin-2-yl]oxy]-4-(benzyloxy)benzonitrile (3.0 g).

reactant | 2,3,5,6-tetrafluoro-4-[(2,2-dimethyldioxolan-4-yl)methoxy]pyridine | 11 mmol, 3.2 g | FC1=NC(=C(C(=C1F)OCC1OC(OC1)(C)C)F)F | C11H11F4NO3
reactant | 3-hydroxy-4-(benzyloxy)benzonitrile | 11 mmol, 2.5 g | OC=1C=C(C#N)C=CC1OCC1=CC=CC=C1 | C14H11NO2
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 3-[[3,5,6-trifluoro-4-[(2,2-dimethyldioxolan-4-yl)methoxy]pyridin-2-yl]oxy]-4-(benzyloxy)benzonitrile | 3.0 g | FC=1C(=NC(=C(C1OCC1OC(OC1)(C)C)F)F)OC=1C=C(C#N)C=CC1OCC1=CC=CC=C1 | C25H21F3N2O5
